US07795255B2
4,4-Pentamethylene-2-pyrrolidinone (765 mg, 5 mmol) was dissolved in acetonitrile (10 ml) and 4-dimethylamino-pyridine (DMAP; 61 mg, 0.5 mmol, 0.1 molequivalents) was added thereto. A solution of di-t-butyl dicarbonate (BOC2O; 1.308 g, 6 mmol, 1.2 molequivalents) in acetonitrile (10 ml) was thereafter added dropwise during 30 minutes, and the resulting mixture was stirred at 25° C., while monitoring the reaction by TLC, using ethyl acetate as eluent and KMNO4 and heating for developing the TLC plate. Stirring was ceased once complete consumption of the pyrrolidinone and appearance of a less polar spot near the front were observed (after about 4 hours). Thereafter, most of the solvent was evaporated under reduced pressure, chloroform was added to the residue and the resulting solution was then washed with 1M HCl, dried over Na2SO4 and the solvents were evaporated under reduced pressure to give 3-oxo-2-aza-spiro[4.5]decane-2-carboxylic acid tert-butyl ester (1.168 grams, 92% yield) as an off-white solid.

reactant | 4,4-Pentamethylene-2-pyrrolidinone | 5 mmol, 765 mg | C1CCC2(CC1)CC(=O)NC2 | C9H15NO
reactant | di-t-butyl dicarbonate | 6 mmol, 1.308 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
catalyst | 4-dimethylamino-pyridine | 0.5 mmol, 61 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-oxo-2-aza-spiro[4.5]decane-2-carboxylic acid tert-butyl ester | 1.168 grams, 92% yield | C(C)(C)(C)OC(=O)N1CC2(CC1=O)CCCCC2 | C14H23NO3
